US07432280B2
To 5% palladium on carbon (0.05 g) under nitrogen was added a solution of 1,1-dimethylethyl-(3S)-3-aminopiperidine-1-carboxylate (0.50 g, 2.5 mmol) and tetrahydrofuran-3-carboxaldehyde (50% w/w in water) (0.50 g, 2.5 mmol) in ethanol (20 mL). The reaction mixture was hydrogenated overnight at 60 psi in a Parr hydrogenator. The catalyst was removed by filtration through Celite and the solvent removed in vacuo to give 1,1-dimethylethyl (3S)-3-[(tetrahydrofuran-3-ylmethyl)amino]piperidine-1-carboxylate as a colourless, slightly cloudy oil.

reactant | 1,1-dimethylethyl-(3S)-3-aminopiperidine-1-carboxylate | 2.5 mmol, 0.50 g | CC(C)(C)C1N(CCC[C@@H]1N)C(=O)[O-]
reactant | tetrahydrofuran-3-carboxaldehyde | 2.5 mmol, 0.50 g | O1CC(CC1)C=O | C5H8O2
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1,1-dimethylethyl (3S)-3-[(tetrahydrofuran-3-ylmethyl)amino]piperidine-1-carboxylate | O1CC(CC1)CN[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H28N2O3
